Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([Cl:7])[s:8]1.[CH3:9][CH2:10][c:11]1[cH:12][cH:13][c:14]([CH:15]2[CH2:16][CH:17]([NH2:18])[CH2:19][N:20]([C:21](=[O:22])[CH:23]3[CH2:24][CH2:25][CH2:26][CH2:27]3)[CH2:28]2)[cH:29][cH:30]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([Cl:7])[s:8]1)[NH:18][CH:17]1[CH2:16][CH:15]([c:14]2[cH:13][cH:12][c:11]([CH2:10][CH3:9])[cH:30][cH:29]2)[CH2:28][N:20]([C:21](=[O:22])[CH:23]2[CH2:24][CH2:25][CH2:26][CH2:27]2)[CH2:19]1,[CH3:9][CH2:10][c:11]1[cH:12][cH:13][c:14]([CH:15]2[CH2:16][CH:17]([NH2:18])[CH2:19][N:20]([C:21](=[O:22])[CH:23]3[CH2:24][CH2:25][CH2:26][CH2:27]3)[CH2:28]2)[cH:29][cH:30]1.[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([Cl:7])[s:8]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([Cl:7])[s:8]1)[NH:18][CH:17]1[CH2:16][CH:15]([c:14]2[cH:13][cH:12][c:11]([CH2:10][CH3:9])[cH:30][cH:29]2)[CH2:28][N:20]([C:21](=[O:22])[CH:23]2[CH2:24][CH2:25][CH2:26][CH2:27]2)[CH2:19]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (18, 1), ([1, 2], 2), (303, 18.1), ([18.1, 18], 18), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH:1]([CH3:2])[CH3:3].[O:4]=[CH:5][c:6]1[cH:7][cH:8][c:9]([O:10][CH2:11][c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[cH:18][c:19]1[OH:20]>>[CH:1]([CH3:2])([CH3:3])[O:20][c:19]1[c:6]([CH:5]=[O:4])[cH:7][cH:8][c:9]([O:10][CH2:11][c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[cH:18]1,[O:4]=[CH:5][c:6]1[cH:7][cH:8][c:9]([O:10][CH2:11][c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[cH:18][c:19]1[OH:20].[I:101][CH:1]([CH3:2])[CH3:3]>>[CH:1]([CH3:2])([CH3:3])[O:20][c:19]1[c:6]([CH:5]=[O:4])[cH:7][cH:8][c:9]([O:10][CH2:11][c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[cH:18]1,SN1,"[([1, 101], 101), (20, 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH2:2][C@@H:3]([c:4]1[c:5]([CH3:6])[cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][c:14]([N:15]2[CH2:16][CH2:17][CH:18]([C:19](=[O:20])[O-:21])[CH2:22][CH2:23]2)[cH:24][cH:25]1)[CH:26]1[CH2:27][CH2:28][C:29](=[O:30])[N:31]([CH3:32])[CH2:33]1.[NH2:34][OH:35]>>[C:1](\[CH2:2][C@@H:3]([c:4]1[c:5]([CH3:6])[cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][c:14]([N:15]2[CH2:16][CH2:17][CH:18]([C:19](=[O:20])[O-:21])[CH2:22][CH2:23]2)[cH:24][cH:25]1)([CH:26]1[CH2:27][CH2:28][C:29](=[O:30])[N:31]([CH3:32])[CH2:33]1)=[N:34]\[OH:35],[O:101]=[C:1]([CH2:2][C@@H:3]([c:4]1[c:5]([CH3:6])[cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][c:14]([N:15]2[CH2:16][CH2:17][CH:18]([C:19](=[O:20])[OH:21])[CH2:22][CH2:23]2)[cH:24][cH:25]1)[CH:26]1[CH2:27][CH2:28][C:29](=[O:30])[N:31]([CH3:32])[CH2:33]1.[NH2:34][OH:35].[H+:301]>>[C:1](\[CH2:2][C@@H:3]([c:4]1[c:5]([CH3:6])[cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][c:14]([N:15]2[CH2:16][CH2:17][CH:18]([C:19](=[O:20])[OH:21])[CH2:22][CH2:23]2)[cH:24][cH:25]1)([CH:26]1[CH2:27][CH2:28][C:29](=[O:30])[N:31]([CH3:32])[CH2:33]1)=[N:34]\[OH:35],imine_formation,"[(34, 1), ([1, 101], 301), (101, 34.1), ([34.1, 34], 34), (34, [34, 1]), ([1, 101], 101), ([34.1, 34], 34)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][CH:2]1[CH2:3][CH2:4][CH2:5][O:6]1.[O:7]=[C:8]1[C:9](=[O:10])[c:11]2[cH:12][cH:13][cH:14][cH:15][c:16]2[C:17]2=[C:18]1[S:19][CH2:20][C:21]1([CH2:26][CH2:25][NH:24][CH2:23][CH2:22]1)[O:27]2>>[CH2:1]([CH:2]1[CH2:3][CH2:4][CH2:5][O:6]1)[N:24]1[CH2:23][CH2:22][C:21]2([CH2:20][S:19][C:18]3=[C:17]([c:16]4[c:11]([cH:12][cH:13][cH:14][cH:15]4)[C:9](=[O:10])[C:8]3=[O:7])[O:27]2)[CH2:26][CH2:25]1,[O:7]=[C:8]1[C:9](=[O:10])[c:11]2[cH:12][cH:13][cH:14][cH:15][c:16]2[C:17]2=[C:18]1[S:19][CH2:20][C:21]1([CH2:22][CH2:23][NH:24][CH2:25][CH2:26]1)[O:27]2.[Br:101][CH2:1][CH:2]1[CH2:3][CH2:4][CH2:5][O:6]1>>[CH2:1]([CH:2]1[CH2:3][CH2:4][CH2:5][O:6]1)[N:24]1[CH2:23][CH2:22][C:21]2([CH2:20][S:19][C:18]3=[C:17]([c:16]4[c:11]([cH:12][cH:13][cH:14][cH:15]4)[C:9](=[O:10])[C:8]3=[O:7])[O:27]2)[CH2:26][CH2:25]1,SN2,"[(24, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
